US09107926B2
Step 2: 2-(4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)-1H-pyrazol-1-yl)-2-methylpropanoic acid
Ethyl 2-(4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)-1H-pyrazol-1-yl)-2-methylpropanoate (250 mg, 0.5 mmol) was treated with 1 M of lithium hydroxide in water (2 mL) and methanol (1 mL). The reaction was stirred at room temperature for 12 h. Acidified by 10% aqueous citric acid to pH 5 and extracted with EtOAc twice. The combined organic layers were washed with brine, dried and concentrated. The resultant 2-(4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)-1H-pyrazol-1-yl)-2-methylpropanoic acid was used as is with no further purification steps. LC/MS (ESI+): m/z 462 (M+H). 1H NMR (500 MHz, DMSO) δ 8.44 (s, 1H), 8.36 (d, J=8.4, 1H), 7.97 (s, 1H), 7.86 (s, 1H), 7.44 (dd, J=8.4, 1.7, 1H), 7.35 (d, J=1.7, 1H), 5.82 (dt, J=13.1, 6.6, 1H), 4.52 (s, 4H), 2.25 (s, 3H), 1.78 (s, 6H), 1.45 (t, J=13.9, 6H)

reactant | Ethyl 2-(4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)-1H-pyrazol-1-yl)-2-methylpropanoate | 0.5 mmol, 250 mg | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C=3C=NN(C3)C(C(=O)OCC)(C)C)C1)C | C26H31N7O3
reactant | lithium hydroxide | 1 M | [OH-].[Li+]
solvent | water | 2 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 2-(4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)-1H-pyrazol-1-yl)-2-methylpropanoic acid | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C=3C=NN(C3)C(C(=O)O)(C)C)C1)C | C24H27N7O3
